US07456315B2
To a stirred solution of 2-fluoro-4-hydroxybenzonitrile (20.00 g, 145.9 mmol) in 160 mL of water, was added 50% aqueous sodium hydroxide (40.00 g, 500.0 mmol). The mixture was heated to reflux for 4 hours, cooled to room temperature, poured into iced concentrated hydrochloric acid, and extracted with ether. The product was extracted into saturated aqueous sodium bicarbonate and the ether layer discarded. This aqueous extract was acidified with concentrated hydrochloric acid and extracted with ether. The organic extract was dried over magnesium sulfate, filtered, and evaporated to give a white solid (22.90 g) of 2-fluoro-4-hydroxybenzoic acid in 100% yield. 1H NMR (300 MHz, CD3COCD3) δ (ppm): 9.80 (b, 1H), 7.87 (t, 1H), 6.77 (dd, 1H), 6.66 (dd, 1H). 19F-NMR (300 MHz, CD3COCD3) δ (ppm): −108.13 (s, decoupled). 2-Fluoro-4-hydroxybenzonitrile: 1H-NMR (300 MHz, CD3COCD3) δ (ppm): 7.61 (t, 1H), 6.81 (m, 2H), 5.80 (b, 1H). 19F-NMR (300 MHz, CD3COCD3) δ (ppm): −108.82 (s, decoupled)

reactant | 2-fluoro-4-hydroxybenzonitrile | 145.9 mmol, 20.00 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | sodium hydroxide | 500.0 mmol, 40.00 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 160 mL | O | H2O
product | 2-fluoro-4-hydroxybenzoic acid | 22.90 g, 100% yield | FC1=C(C(=O)O)C=CC(=C1)O | C7H5FO3
